US09340546B2
To a solution of 6-((dimethylamino)methyl)pyridin-3-ol in DMF (5 mL) was added, K2CO3 (834.8 mg, 6.040 mmol) and the mixture was stirred at RT for 10 min before 4-chloro-3-nitro-pyridine (191.5 mg, 1.208 mmol) was added. The mixture was stirred at RT for 60 h. The reaction mixture was partitioned between EtOAc and NH4Cl aq satd. Combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo yielding an oil that purified by SCX column, yielding N,N-dimethyl-1-(5-((3-nitropyridin-4-yl)oxy)pyridin-2-yl)methanamine as a colourless oil. MS (ES+) 275.1.

reactant | 6-((dimethylamino)methyl)pyridin-3-ol | CN(C)CC1=CC=C(C=N1)O | C8H12N2O
reactant | K2CO3 | 6.040 mmol, 834.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-3-nitro-pyridine | 1.208 mmol, 191.5 mg | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N,N-dimethyl-1-(5-((3-nitropyridin-4-yl)oxy)pyridin-2-yl)methanamine | CN(CC1=NC=C(C=C1)OC1=C(C=NC=C1)[N+](=O)[O-])C | C13H14N4O3
